US08669254B2
5-(4-Chloro-phenyl)-6-cyclopropylmethoxy-N-((S)-2-oxo-cyclohexyl)-nicotinamide
To a solution of 1.651 g 5-(4-chloro-phenyl)-6-cyclopropylmethoxy-N-((1S,2R)-2-hydroxy-cyclohexyl)-nicotinamide in 25 ml methylene chloride, was added 2.62 g Dess-Martin periodinane as 15% solution in dichloromethane. The reaction mixture was stirred at room temperature for 18 h. The solvent was evaporated and the residue was purified by chromatography on silica gel using a gradient of heptane:ethyl acetate=95:5 to 40:60 to yield 1.46 g of the title compound as white foam. MS (EI): 399.1 (M+H).

reactant | 5-(4-chloro-phenyl)-6-cyclopropylmethoxy-N-((1S,2R)-2-hydroxy-cyclohexyl)-nicotinamide | 1.651 g | ClC1=CC=C(C=C1)C=1C(=NC=C(C(=O)N[C@@H]2[C@@H](CCCC2)O)C1)OCC1CC1 | C22H25ClN2O3
reactant | Dess-Martin periodinane | 2.62 g | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
solvent | methylene chloride | 25 ml | C(Cl)Cl | CH2Cl2
solvent | dichloromethane | ClCCl | CH2Cl2
product | 5-(4-Chloro-phenyl)-6-cyclopropylmethoxy-N-((S)-2-oxo-cyclohexyl)-nicotinamide | 1.46 g | ClC1=CC=C(C=C1)C=1C(=NC=C(C(=O)N[C@@H]2C(CCCC2)=O)C1)OCC1CC1 | C22H23ClN2O3
